US06194425B1
N5-(2-Methylpropyl)-4-nitrotetrazolo[1,5-a][1,7]naphthyridin-5-amine (1.5 g, 5.22 mmol) was suspended in acetic acid (75 mL). An excess of sodium hydrogen sulfide was dissolved in a minimum of water and added to the suspension. The reaction mixture turned red and all of the material went into solution. The reaction mixture was extracted twice with dichloromethane (150 mL). The extracts were combined, washed with water, dried over magnesium sulfate, filtered and concentrated under vacuum to provide 1.22 g of N5-(2-methylpropyl)tetrazolo[1,5-a][1,7]naphthyridin-4,5-diamine as a light yellow solid, m.p. 203-204.5° C. Analysis: Calculated for: C12H15N7: % C, 56.02; % H, 5.88; % N, 38.11; Found: % C, 55.68; % H, 5.81; % N, 37.74.

reactant | N5-(2-Methylpropyl)-4-nitrotetrazolo[1,5-a][1,7]naphthyridin-5-amine | 5.22 mmol, 1.5 g | CC(CNC1=C(C=2N(C3=CN=CC=C13)N=NN2)[N+](=O)[O-])C | C12H13N7O2
reactant | sodium hydrogen sulfide | S.[Na]
solvent | acetic acid | 75 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | N5-(2-methylpropyl)tetrazolo[1,5-a][1,7]naphthyridin-4,5-diamine | 1.22 g | CC(CNC1=C(C=2N(C3=CN=CC=C13)N=NN2)N)C | C12H15N7
